US08937178B2
A solution of 2-(3-fluorobenzoyl)-5-methoxybenzoic acid (21 g, 76.5 mmol) in hydrazine hydrate (4.09 mL, 84.0 mmol) and EtOH (300 mL) was heated overnight at 80° C. The reaction mixture was concentrated, diluted with water (300 mL), and the precipitate was filtered and dried to yield 4-(3-fluorophenyl)-7-methoxyphthalazin-1(2H)-one (7.2 g). (270.85 [M+H]) 1H NMR: (400 MHz, DMSO) δ: 3.96 (s, 3H), 7.36-7.43 (m, 3H), 7.46-7.49 (m, 1H), 7.57-7.64 (m, 2H), 7.73-7.73 (d, J=2.8, 1H).

reactant | 2-(3-fluorobenzoyl)-5-methoxybenzoic acid | 76.5 mmol, 21 g | FC=1C=C(C(=O)C2=C(C(=O)O)C=C(C=C2)OC)C=CC1 | C15H11FO4
reactant | hydrazine hydrate | 84.0 mmol, 4.09 mL | O.NN
solvent | EtOH | 300 mL | CCO | C2H6O
product | 4-(3-fluorophenyl)-7-methoxyphthalazin-1(2H)-one | 7.2 g | FC=1C=C(C=CC1)C1=NNC(C2=CC(=CC=C12)OC)=O | C15H11FN2O2
